US06812225B2
Preparation of 4-[1,2,3]-thiadiazol-5-yl-phenylamine
SnCl2.H2O (3.21 g, 5 eq) was added to a slurry of (5-(4-Nitrophenyl)-1,2,3-thiadiazole (Lancaster Synthesis) (0.59 g, 2.8 mmol) in absolute EtOH (50 mL) and the reaction heated to 70° C. for 2 h. The reaction was allowed to cool to room temperature and pour into saturated NaHCO3 and ice. The product was extracted with EtOAc (2×) the solution dried (MgSO4) and evaporated to dryness in vacuo to yield 0.47 g of a light yellow solid mp 126-128° C.

reactant | SnCl2.H2O | 3.21 g, 5 eq | Cl[Sn]Cl.O
reactant | 5-(4-Nitrophenyl)-1,2,3-thiadiazole | 2.8 mmol, 0.59 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CN=NS1 | C8H5N3O2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 50 mL | CCO | C2H6O
product | 4-[1,2,3]-thiadiazol-5-yl-phenylamine | 0.47 g | S1N=NC=C1C1=CC=C(C=C1)N | C8H7N3S
